US06028195
1-[(5-Ethyl-2-methoxy-6-methylpyridin-3-yl)aminocarbonyl]-4-(3-thiophenyl)piperazine
Phenyl N-(5-ethyl-2-methoxy-6-methylpyridin-3-yl)carbamate and 1-(3-thiophenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound.

reactant | Phenyl N-(5-ethyl-2-methoxy-6-methylpyridin-3-yl)carbamate | C(C)C=1C=C(C(=NC1C)OC)NC(OC1=CC=CC=C1)=O | C16H18N2O3
reactant | 1-(3-thiophenyl)piperazine | S1C=C(C=C1)N1CCNCC1 | C8H12N2S
product | 1-[(5-Ethyl-2-methoxy-6-methylpyridin-3-yl)aminocarbonyl]-4-(3-thiophenyl)piperazine | yield: 63% | C(C)C=1C=C(C(=NC1C)OC)NC(=O)N1CCN(CC1)C1=CSC=C1 | C18H24N4O2S
